US08703961B2
2.63 g (8.26 mmol) of tert-butyl N-{5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl}carbamate are dissolved in 100 ml of dry THF in a dried Schlenk flask under nitrogen and cooled to −78° C. 11 ml of a 15% solution of n-BuLi in n-hexane are then slowly added dropwise, and the mixture is stirred at −78° C. for 20 min. 1120 mg (8.38 mmol) of N-chlorosuccinimide dissolved in 1 ml of dry THF are subsequently added dropwise, and the mixture is stirred at −78° C. for 15 min, then quenched using 10 ml of n-butanol and warmed to RT. The solvent is removed in vacuo, and the residue is purified directly by chromatography on silica gel (eluent: cyclohexane/ethyl acetate 99/1), giving 2.3 g (6.51 mmol, 78%) of tert-butyl N-{2-chloro-5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl}-carbamate as beige solid from PE; ESI-MS: m/e: 353 ([M+H]+).

reactant | tert-butyl N-{5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl}carbamate | 8.26 mmol, 2.63 g | FC1=CC=C(C=C1)C#CC1=C(N=CS1)NC(OC(C)(C)C)=O | C16H15FN2O2S
reactant | n-BuLi | [Li]CCCC
reactant | N-chlorosuccinimide | 8.38 mmol, 1120 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | tert-butyl N-{2-chloro-5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl}-carbamate | 6.51 mmol, 2.3 g, 78% | ClC=1SC(=C(N1)NC(OC(C)(C)C)=O)C#CC1=CC=C(C=C1)F | C16H14ClFN2O2S
